US07700593B2
A mixture of (E)-1-(2-chlorobenzylidene)-2-(4-chloro-6-methylpyridin-2-yl)hydrazine (0.247 g, 0.882 mmol) and chloramine trihydrate (0.273 g, 0.970 mmol) in 7 mL of EtOH was heated at 80° C. for 2 h. After cooling to RT, water was added and the mixture was extracted with EtOAc (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give 1.05 g of crude material. The crude material was purified by silica gel chromatography (50-75% EtOAc in hexanes) to afford 7-chloro-3-(2-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridine as an off white solid. MS (ESI, pos. ion) m/z: 278.0 (M+1).

reactant | (E)-1-(2-chlorobenzylidene)-2-(4-chloro-6-methylpyridin-2-yl)hydrazine | 0.882 mmol, 0.247 g | ClC1=C(\C=N\NC2=NC(=CC(=C2)Cl)C)C=CC=C1 | C13H11Cl2N3
reactant | chloramine trihydrate | 0.970 mmol, 0.273 g | O.O.O.NCl
reactant | water | O | H2O
solvent | EtOH | 7 mL | CCO | C2H6O
product | 7-chloro-3-(2-chlorophenyl)-5-methyl-[1,2,4]triazolo[4,3-a]pyridine | ClC1=CC=2N(C(=C1)C)C(=NN2)C2=C(C=CC=C2)Cl | C13H9Cl2N3
